US07074800B1
A mixture of 7-benzyloxy-4-chloro-6-methoxyquinazoline (7.859 g, 26.1 mmol), (prepared as described for the starting material in Example 1), potassium carbonate (18.03 g, 130 mmol) and 5-hydroxy-3-methylindole (5.00 g, 34.0 mmol), (Journal of Organic Chemistry 1993, 58, 3757), in DMA (600 ml) was stirred at 75° C. for 2 hours and allowed to cool to ambient temperature. The reaction mixture was filtered and the filtrate evaporated in vacuo. The crude solid was purified by silica column chromatography, eluting with 2.5% methanol/97.5% dichloromethane to give 7-benzyloxy-6-methoxy-4-(3-methylindol-5-yloxy)quinazoline (7.791 g, 73%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 26.1 mmol, 7.859 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | potassium carbonate | 130 mmol, 18.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-hydroxy-3-methylindole | 34.0 mmol, 5.00 g | OC=1C=C2C(=CNC2=CC1)C | C9H9NO
solvent | DMA | 600 ml | CC(=O)N(C)C | C4H9NO
product | 7-benzyloxy-6-methoxy-4-(3-methylindol-5-yloxy)quinazoline | 7.791 g, 73% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC=1C=C2C(=CNC2=CC1)C)OC | C25H21N3O3
